US06015767
4-aminostyrene (5.0 g, 42 mmol) was placed under nitrogen in a round-bottomed flask fitted with a water-cooled condenser, with hexamethyldisilazane (16.6 ml, 80 mmol) and trimethylsilyl chloride (0.87 g, 80 mmol). This mixture was heated to 140° C. for 16 hours and then allowed to cool. Removal of volatiles in vacuo at ambient temperature yielded a yellow viscous oil. Distillation of this at 47° C. (1×10-2 mbar) yielded 4-(N-{trimethylsilyl}amino)styrene as a colourless liquid.

reactant | 4-aminostyrene | 42 mmol, 5.0 g | NC1=CC=C(C=C)C=C1 | C8H9N
reactant | hexamethyldisilazane | 80 mmol, 16.6 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trimethylsilyl chloride | 80 mmol, 0.87 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | water | O | H2O
product | 4-(N-{trimethylsilyl}amino)styrene | C[Si](NC1=CC=C(C=C)C=C1)(C)C | C11H17NSi
